US06136823
Synthesis of 5-Bromo-4-chloro-2-fluorotoluene
Cupric chloride (6 g) and butyl nitrite (4.8 g) were added to acetonitrile (16 ml), and the mixture was stirred at 60° C. for 10 minutes. A solution of 2-bromo-5-fluoro-4-methylaniline (7.6 g) in acetonitrile (30 ml) was added dropwise to the mixture at the same temperature, and the resultant mixture was then stirred at the same temperature for 30 minutes. After the reaction mixture was allowed to cool, 2N hydrochloric acid was added to acidify the reaction mixture, and it was extracted with diethyl ether. After an organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off. The residue was subjected to column chromatography on silica gel to conduct elution with n-hexane, thereby obtaining the title compound (5.6 g) as a pale yellow oil.

reactant | butyl nitrite | 4.8 g | N(=O)OCCCC | C4H9NO2
reactant | 2-bromo-5-fluoro-4-methylaniline | 7.6 g | BrC1=C(N)C=C(C(=C1)C)F | C7H7BrFN
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
product | 5-Bromo-4-chloro-2-fluorotoluene | 5.6 g | BrC=1C(=CC(=C(C1)C)F)Cl | C7H5BrClF
